US07572820B2
1-{[5-(3-Bromo-4-methylphenyl)-1,2,4-oxadiazol-3-yl]methyl}-4-(trifluoromethyl)-1H-indole-5-carbonitrile
Synthesized as described in Example 72 from 2-[5-cyano-4-(trifluoromethyl)-1H-indol-1-yl]-N-hydroxyethanimidamide and 3-bromo-4-methylbenzoic acid: MS (ESI): m/z 461 (M+).

reactant | 2-[5-cyano-4-(trifluoromethyl)-1H-indol-1-yl]-N-hydroxyethanimidamide | C(#N)C=1C(=C2C=CN(C2=CC1)CC(NO)=N)C(F)(F)F | C12H9F3N4O
reactant | 3-bromo-4-methylbenzoic acid | BrC=1C=C(C(=O)O)C=CC1C | C8H7BrO2
product | 1-{[5-(3-Bromo-4-methylphenyl)-1,2,4-oxadiazol-3-yl]methyl}-4-(trifluoromethyl)-1H-indole-5-carbonitrile | BrC=1C=C(C=CC1C)C1=NC(=NO1)CN1C=CC2=C(C(=CC=C12)C#N)C(F)(F)F | C20H12BrF3N4O
